US04945099
5-(2,4-Diacetyl-5-hydroxyphenoxy)pentanenitrile
A mixture of 582 mg of 4,6-diacetylresorcinol, 460 mg of potassium carbonate, 530 mg of 5-bromopentanenitrile and 0.2 g of potassium iodide was heated at reflux overnight. The mixture was concentrated in vacuo and partitioned between ethyl acetate and dilute hydrochloric acid. The organic layer was separated, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by preparative thin layer chromatography on silica gel eluting with 40% ethyl acetate in hexane to provide 200 mg of the desired title product, m.p.=105°-106° C.

reactant | 4,6-diacetylresorcinol | 582 mg | C(C)(=O)C1=C(C=C(O)C(=C1)C(C)=O)O | C10H10O4
reactant | potassium carbonate | 460 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-bromopentanenitrile | 530 mg | BrCCCCC#N | C5H8BrN
reactant | potassium iodide | 0.2 g | [I-].[K+]
product | 5-(2,4-Diacetyl-5-hydroxyphenoxy)pentanenitrile | 200 mg | C(C)(=O)C1=C(OCCCCC#N)C=C(C(=C1)C(C)=O)O | C15H17NO4
